US08809539B2
Potassium carbonate (79.22 g, 0.572 mol) and tetrabutylammonium bromide (6.16 g, 0.019 mol) are added to a solution of benzyl-bis-(2-chloroethyl)amine (47.5 g, 0.205 mol) and diethyl malonate (30.62 g, 0.191 mol) in N,N-dimethylformamide (450 mL). The reaction mixture is heated at 80° C. for 1.5 hours and then concentrated under reduced pressure. The residue is treated with demineralized water (200 mL) and the aqueous layer is extracted with ethyl acetate (3×100 mL). Combined organic layers are washed with brine (1×40 mL) and dried over sodium sulphate. Removal of solvent gives a viscous liquid which is purified by column chromatography (silica gel 230-400 mesh, n-hexane:ethyl acetate 80:20) to give 1-benzylpiperidine-4,4-dicarboxylic acid diethyl ester.

reactant | Potassium carbonate | 0.572 mol, 79.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl-bis-(2-chloroethyl)amine | 0.205 mol, 47.5 g | C(C1=CC=CC=C1)N(CCCl)CCCl | C11H15Cl2N
reactant | diethyl malonate | 0.191 mol, 30.62 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
catalyst | tetrabutylammonium bromide | 0.019 mol, 6.16 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 450 mL | CN(C=O)C | C3H7NO
product | 1-benzylpiperidine-4,4-dicarboxylic acid diethyl ester | C(C)OC(=O)C1(CCN(CC1)CC1=CC=CC=C1)C(=O)OCC | C18H25NO4
